US07026335B2
Preparation of (4-cyclohexylpiperidin-4-yl)-methanol (2):
To a cooled (−5° C.) solution of lithium aluminum hydride (900 mL, 0.90 moles, 1.0M solution in THF) is added tetrahydrofuran (2000 mL) and 4-cyclohexyl-piperidine-4-carboxylic acid ethyl ester, 1, (59.5 g, 249 mmol). The resulting solution is stirred at between −5° C. and +3° C. for 1 hour and then allowed to warmed to room temperature and stir an additional sixty-six hours. The reaction is then re-cooled to 0° C. and carefully quenched with saturated ammonium chloride (100 mL). The reaction mixture is stirred for 10 minutes and then 87:10:3 ethyl acetate:methanol:triethylamine (500 mL) is added. The suspension is then stirred at room temperature for 20 minutes and filtered through a pad of Celite. The solids are re-suspended in 1:1 THF:EtOAc (2000 mL), stirred at room temperature for 1 hour and the suspension was again filtered through a pad of Celite. The filtrates are combined and concentrated in vacuo to afford 53.6 g of a mixture of the desired compound and 4-cyclohexyl-piperidine-4-carbaldehyde. The crude mixture is used directly in without further purification.

reactant | lithium aluminum hydride | 0.90 moles, 1.0M, 900 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-cyclohexyl-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCNCC1)C1CCCCC1 | C14H25NO2
solvent | tetrahydrofuran | 2000 mL | O1CCCC1 | C4H8O
product | (4-cyclohexylpiperidin-4-yl)-methanol | 53.6 g | C1(CCCCC1)C1(CCNCC1)CO | C12H23NO
